US07312358B2
b) Protocol for the Displacement of the Leaving Group in XI (Scheme 4); e.g. methyl{[(4-ethoxyphenyl)sulfonyl]-4-methylanilino}acetate
The crude N-aryl-benzenesulfonamide building block XIII, e.g. 4-ethoxy-N-(4-methylphenyl)benzenesulfonamide (3.087 g, 10.6 mmol), was dissolved in DMF (10 mL) and was added to a suspention of NaH (13.6 mmol, 0.593 mg of NaH 55-65% in oil) in DMF (30 mL). The mixture was stirred 45 min at room temperature. 2-Bromoacetic acid methyl ester (1.45 mL, 15.9 mmol) was added dropwise. The resulting mixture was stirred at room temperature overnight. The solvents were evaporated, affording the desired product, e.g. methyl{[(4-ethoxyphenyl)sulfonyl]-4-methylanilino}acetate (3.816 g, quantitative crude yield) as a light yellow solid, in 96.1% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 4-ethoxy-N-(4-methylphenyl)benzenesulfonamide | 10.6 mmol, 3.087 g | C(C)OC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C | C15H17NO3S
reactant | NaH | 13.6 mmol, 0.593 mg | [H-].[Na+]
reactant | 2-Bromoacetic acid methyl ester | 15.9 mmol, 1.45 mL | COC(CBr)=O | C3H5BrO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl{[(4-ethoxyphenyl)sulfonyl]-4-methylanilino}acetate | 3.816 g | COC(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)OCC)=O | C18H21NO5S
